US06770637B2
2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(2,5-dioxo-pyrrolidin-1-yl)-4-o-tolyl-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 100 mg (0.20 mmol) N-(6-amino-4-o-tolyl-pyridin-3-yl)-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide in 3 ml pyridine were added 54 mg (0.50 mmol) trimethylchlorosilane at room temperature. After stirring for 15 min, this mixture was added slowly under stirring to 155 mg (1.0 mmol) succinyl chloride and stirring was continued overnight. The solvent was removed in vacuo and the residue was purified by flash-chromatography to give 29 mg (25%) of the title compound as white solid.

reactant | N-(6-amino-4-o-tolyl-pyridin-3-yl)-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 0.20 mmol, 100 mg | NC1=CC(=C(C=N1)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)C1=C(C=CC=C1)C | C25H23F6N3O
reactant | trimethylchlorosilane | 0.50 mmol, 54 mg | C[Si](Cl)(C)C | C3H9ClSi
reactant | succinyl chloride | 1.0 mmol, 155 mg | C(CCC(=O)Cl)(=O)Cl | C4H4Cl2O2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(2,5-dioxo-pyrrolidin-1-yl)-4-o-tolyl-pyridin-3-yl]-N-methyl-isobutyramide | 29 mg, 25% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C)N1C(CCC1=O)=O)(C)C)(F)F | C29H25F6N3O3
